US06969725B2
In analogy to the procedure described in example 1 g], (S)-3-{4-[2-(3,5-dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid methyl ester was treated with LiOH to obtain (S)-3-{4-[2-(3,5-dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid as colorless solid.

reactant | (S)-3-{4-[2-(3,5-dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC(=CC(=C1)OC)OC)C)OCC)=O | C26H31NO7
reactant | LiOH | [Li+].[OH-]
product | (S)-3-{4-[2-(3,5-dimethoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid | COC=1C=C(C=C(C1)OC)C=1OC(=C(N1)COC1=CC(=C(C=C1)C[C@@H](C(=O)O)OCC)C)C | C25H29NO7
